US07449486B2
Step A: Preparation of 1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2,2-dimethylpropan-1-one:
To a cooled (0° C.) solution of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole (100 mg, 0.278 mmol) in DCM (5 mL) was added triethylamine (50.4 μL, 0.362 mmol) followed by pivaloyl chloride (45 μL, 0.362 mmol). After warming slowly to room temperature and stirring for 16 hours, the mixture was partitioned between DCM (10 mL) and saturated NaHCO3 (10 mL). The aqueous layer was extracted with DCM (10 mL) and the combined organics were washed with brine (10 mL), dried over Na2SO4, and concentrated under reduced pressure. The residue was chromatographed (19:1 hexanes/ethyl acetate) to provide the product as a pale yellow oil (114 mg, 92%).

reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 0.278 mmol, 100 mg | N(=[N+]=[N-])CCCC1(SC(=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C17H15F2N5S
reactant | triethylamine | 0.362 mmol, 50.4 μL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.362 mmol, 45 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2,2-dimethylpropan-1-one | 114 mg, 92% | N(=[N+]=[N-])CCCC1(SC(=NN1C(C(C)(C)C)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C22H23F2N5OS
